US07109186B2
Compound 89-B: 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-2-methylsulfanyl-benzyl)-N-methyl-acetamide
To a stirred solution of (4-fluoro-2-methylsulfanyl-benzyl)-methyl-amine (1.3 g) and diisopropylethylamine (1.74 mL, 10 mmol) in CH2Cl2 (60 mL) was added (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl chloride (1.1 g, 6 mmol). After 1 h, the reaction mixture was concentrated and the resulting residue was taken up in ether (100 mL), washed with 1N HCl (10 mL) and brine (10 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated to give a viscous yellow oil. Flash chromatography on a silica gel column with 3:2 hexanes/EtOAc followed by 2:3 hexanes/EtOAc gave the desired product as a 1:1 mixture of E and Z isomers 1.8123 g, 89% yield). 1HNMR (500 MHz, CDCl3) δ: 7.17 (0.5H, dd, J=8.54, 6.11 Hz), 7.00 (0.5H, dd, J=8.55, 5.8 Hz), 6.94–6.89 (1H, m), 6.83–6.77 (1H, m), 6.17 (0.5H, s), 6.04 (0.5H, s), 4.68 (1H, s), 4.51 (1H, s), 2.98 (1.5H, s), 2.97 (1.5H, s), 2.48 (1.5H, s), 2.45 (1.5H, s), 1.72 (3H, s), 1.67 (3H, s). MS calcd for C16H19FNO4S (M+H): 340.1. found: 340.3.

reactant | (4-fluoro-2-methylsulfanyl-benzyl)-methyl-amine | 1.3 g | FC1=CC(=C(CNC)C=C1)SC | C9H12FNS
reactant | diisopropylethylamine | 10 mmol, 1.74 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl chloride | 6 mmol, 1.1 g | CC1(OC(C(O1)=CC(=O)Cl)=O)C | C7H7ClO4
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-2-methylsulfanyl-benzyl)-N-methyl-acetamide | 89% yield | CC1(OC(C(O1)=CC(=O)N(C)CC1=C(C=C(C=C1)F)SC)=O)C | C16H18FNO4S
